US04769485
In Example 4, methacrylamide was added portionwise to oxalyl chloride while stirring, whereby the reaction proceeded with generation of heat. At the stage that addition of 10 g of methacrylamide was completed, the reaction mixture was solidified. Dichloroethane (100 ml) was added thereto. The produced crystals were collected by filtration, washed and dried under reduced pressure to give 2-isopropenyloxazoline-4,5-dione hydrochloride.

reactant | methacrylamide | C(C(=C)C)(=O)N | C4H7NO
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methacrylamide | 10 g | C(C(=C)C)(=O)N | C4H7NO
solvent | Dichloroethane | 100 ml | ClC(C)Cl | C2H4Cl2
product | 2-isopropenyloxazoline-4,5-dione hydrochloride | Cl.C(=C)(C)C=1OC(C(N1)=O)=O | InChI=1S/C6H5NO3.ClH/c1-3(2)5-7-4(8)6(9)10-5;/h1H2,2H3;1H
